US07781454B2
Step 3: 3-chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-benzimidazol-4-yl]oxy}benzonitrile dihydrochloride
To a suspension of 3-chloro-5-[(5-chloro-1H-benzimidazol-4-yl)oxy]benzonitrile (101 mg, 0.332 mmol) and tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (104 mg, 0.332 mmol) in DMF (1 mL) was added cesium carbonate (216 mg, 0.664 mmol) and the suspension was stirred at room temperature for 2.25 hours. This mixture was diluted with water (10 mL) and extracted with ethyl acetate (2×12 mL). The combined extracts were washed with water, dried over MgSO4, filtered and evaporated in vacuo. This residue was purified on silica gel (40 g) column eluting with 0-100% ethyl acetate/methylene chloride. The fractions corresponding to the desired Boc protected product were combined and the solvent removed in vacuo. This residue was redissolved in TFA (3 mL) and allowed to stand at room temperature for 10 minutes. The solvent was removed in vacuo and the residue was purified on silica gel (4 g) column eluting with 0-10% methanol/methylene chloride gradient. The pure fractions were combined, treated with 1N hydrochloric acid and the solvent removed in vacuo to provide title compound. 1H NMR (DMSO-d6): δ 13.7 (s, 1H), 8.58 (s, 1H), 8.52 (d, 1H, J=4.4 Hz), 8.16 (d, 1H, 8.0 Hz), 7.74 (dd, 1H, J=1.5 Hz), 7.63 (d, 1H, J=8.8 Hz), 7.47 (d, 1H, J=8.5 Hz), 7.39 (dd, 1H, J=1.5 Hz), 7.29 (dd, 1H, J=2 Hz), 7.19 (dd, 1H, J=4.5 and 8.1 Hz) and 5.92 (s, 2H) ppm. LRMS (M+1)=434.7

reactant | 3-chloro-5-[(5-chloro-1H-benzimidazol-4-yl)oxy]benzonitrile | 0.332 mmol, 101 mg | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC=2NC=NC21)Cl | C14H7Cl2N3O
reactant | tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 0.332 mmol, 104 mg | BrCC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H14BrN3O2
reactant | cesium carbonate | 0.664 mmol, 216 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 3-chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-benzimidazol-4-yl]oxy}benzonitrile dihydrochloride | Cl.Cl.ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC=2N(C=NC21)CC2=NNC1=NC=CC=C12)Cl | InChI=1S/C21H12Cl2N6O.2ClH/c22-13-6-12(9-24)7-14(8-13)30-20-16(23)3-4-18-19(20)26-11-29(18)10-17-15-2-1-5-25-21(15)28-27-17;;/h1-8,11H,10H2,(H,25,27,28);2*1H
